US07259163B2
2-Dimethylamino-1,3-thiazole-4-carboxaldehyde
To a solution of 2-aminothiazole (30 g, 0.3 mmol) in conc. hydrochloric acid (150 mL) at 0° C. was added dropwise a saturated solution of sodium nitrite (20.7 g) in water. After 75 minutes at 0° C., cuprous chloride (29.7 g) was added portionwise and the mixture stirred at 0° C. for a further 150 minutes. The mixture was neutralised with conc. sodium hydroxide solution and partitioned between diethyl ether and water. The organic phase was washed with brine, dried over sodium sulphate and evaporated in vacuo to afford 2-chlorothiazole as an oil. To a solution of 2-chlorothiazole (15.9 g, 133 mmol) in THF (200 mL) at −74° C. was added n-BuLi (1.6M in hexane, 90 mL). After 10 minutes, a solution of DMF (14 mL) in THF (90 mL) was added and the mixture allowed to attain room temperature over 2 hours. The mixture was then poured slowly into hydrochloric acid (2M, 400 mL), basified with ammonium hydroxide and extracted with dichloromethane (2×300 mL). The combined organic fractions were dried over sodium sulphate and evaporated in vacuo to afford 2chloro-thiazol4-carboxaldehyde as a solid. A mixture of 2chloro-thiazole-4-carboxaldehyde (20 g) in 2.5% aqueous THF (400 mL) and dimethylamine (13 g, 2.5 equiv.) in THF (150 mL) were combined and stirred at room temperature for 16 hours. The solvent was evaporated in vacuo, the residue partitioned between water and dichloromethane and the organic layer dried over sodium sulphate. Evaporation of the solvent afforded the title compound as a solid

reactant | 2chloro-thiazole-4-carboxaldehyde | 20 g | ClC=1SC=C(N1)C=O | C4H2ClNOS
reactant | dimethylamine | 13 g, 2.5 equiv. | CNC | C2H7N
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-Dimethylamino-1,3-thiazole-4-carboxaldehyde | CN(C=1SC=C(N1)C=O)C | C6H8N2OS
